US07119207B2
6-Hydroxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one
Under nitrogen, combined 2.05 g of 6-Methoxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one (10.0 mmol) with 28 ml of CH2Cl2. Added 22 ml of 1.0 M boron tribromide in CH2Cl2 dropwise over 10 minutes. Stirred at room temperature for 3.5 hours. Poured over ice-H2O and filtered to give 2.32 g of beige solid. 1H NMR (400 MHz, CD3OD) δ 1.25 (6H, s), 3.13 (3H, s), 6.42 (1H, d, J=2.08 Hz), 6.45 (1H, d, J=7.9 Hz), 7.02 (1H, d, J=8.1 Hz). M/z (APCI+) 192.1 (M+1). HPLC (aqueous 200 mM ammonium acetate buffer/acetonitrile gradient, 3.0 ml/min, Hewlett Packard ODS Hypersil 5 uM, 125×4 mm column) 3.262.

reactant | ammonium acetate | 200 mM | C(C)(=O)[O-].[NH4+]
reactant | Hypersil | 5 uM | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
reactant | acetonitrile | C(C)#N | C2H3N
product | 6-Hydroxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one | OC1=CC=C2C(C(N(C2=C1)C)=O)(C)C | C11H13NO2
